US08609675B2
Step A—Synthesis of 4-(2-Ethoxycarbonyl-acetyl)-cyclohexanecarboxylic acid methyl ester (Int-7a)
Cyclohexane-1,4-dicarboxylic acid mono-t-butyl ester (26.9 mmol, 5.0 g) and N,N′-carbonyldiimidazole (33.6 mmol, 5.44 g) in anhydrous THF (80 mL) were stirred 16 h at room temperature under argon. In a separate, sealed and argon-flushed flask, LiHMDS (1.0 M in THF, 56.5 ml) was added to 40 mL anhydrous THF stirring at −78° C. To this solution was added dropwise anhydrous ethyl acetate (57.8 mmol, 5.65 mL). This solution was allowed to stir at −78° C. for 1 hour prior to dropwise addition of original CDI/acid solution that had been stirring overnight. The reaction mixture was allowed to stir and warm to room temperature overnight. The reaction was then quenched with saturated NH4Cl(aq) (200 mL) and extracted with Et2O (100×2). The combined organics were then washed with water, saturated brine, and dried over Na2SO4. The solvent was removed in vacuo and the crude residue (8.5 g) was used in the next step without further purification.

reactant | Cyclohexane-1,4-dicarboxylic acid mono-t-butyl ester | 26.9 mmol, 5.0 g | C(C)(C)(C)OC(=O)C1CCC(CC1)C(=O)O | C12H20O4
reactant | ethyl acetate | 57.8 mmol, 5.65 mL | C(C)(=O)OCC | C4H8O2
reactant | CDI | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | 4-(2-Ethoxycarbonyl-acetyl)-cyclohexanecarboxylic acid methyl ester | COC(=O)C1CCC(CC1)C(CC(=O)OCC)=O | C13H20O5
